US08022222B2
Using the method of Example 3, Step A, ethyl 2-methyl-3-hydroxybenzoate (2.27 g, 12.6 mmol), 60% sodium hydride in mineral oil (505 mg, 12.6 mmol), and 2-chloro-4-nitropyridine (2.00 g, 12.6 mmol) were reacted to provide ethyl 2-methyl-3-(2-chloropyridin-4-yloxy)benzoate (3.31 g, 90% yield) as a clear oil. 1H NMR (CDCl3) δ 8.22 (d, 1H), 7.83 (d, 1H), 7.33 (t, 1H), 7.18 (d, 1H), 6.70-6.72 (m, 2H), 4.39 (quartet, 2H), 2.38 (s, 3H), 1.41 (t, 3H).

reactant | ethyl 2-methyl-3-hydroxybenzoate | 12.6 mmol, 2.27 g | CC1=C(C(=O)OCC)C=CC=C1O | C10H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 12.6 mmol, 2.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | ethyl 2-methyl-3-(2-chloropyridin-4-yloxy)benzoate | 3.31 g, 90% yield | CC1=C(C(=O)OCC)C=CC=C1OC1=CC(=NC=C1)Cl | C15H14ClNO3
